US05684014
tert-Butyl 4-methylphenyl-acetate
450 g (3 mol) of 4-methylphenyl-acetic acid (Aldrich), 1.13 l (12 mol) of tert-butanol and 90 g (0.74 mol) of 4-(N,N-dimethylamino)pyridine are dissolved in 2 l of dichloromethane. After addition of 680 g (3.3 mol of dicyclohexylcarbodiimide, dissolved in 400 ml of dichloromethane, the mixture is stirred at 25° C. for 20 h, the precipitated urea is filtered off with suction and washed with 200 ml of dichloromethane, and the organic phase is washed twice each with 500 ml of 2M hydrochloric acid and water. The organic phase is concentrated and distilled.

reactant | 4-methylphenyl-acetic acid | 3 mol, 450 g | CC1=CC=C(C=C1)CC(=O)O | C9H10O2
reactant | tert-butanol | 12 mol, 1.13 l | C(C)(C)(C)O | C4H10O
reactant | dicyclohexylcarbodiimide | 3.3 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.74 mol, 90 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-methylphenyl-acetate | CC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C13H18O2
